US06326369B1
Ethyl 4-(3-iodopropoxy)benzoate
The mixture of ethyl 4-(3-chloropropoxy)benzoate (26.5 g), sodium iodide (49.0 g) in acetone (300 ml) was heated under reflux for 24 hr. The reaction mixture was diluted with water and extracted with diethyl ether. The organic layer was washed with 5% aqueous sodium sulfite, water, saturated aqueous sodium chloride, and dried. The solvent was removed in vacuo to yield the entitled compound (34.4 g) as an oil.

reactant | ethyl 4-(3-chloropropoxy)benzoate | 26.5 g | ClCCCOC1=CC=C(C(=O)OCC)C=C1 | C12H15ClO3
reactant | sodium iodide | 49.0 g | [I-].[Na+]
solvent | acetone | 300 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | Ethyl 4-(3-iodopropoxy)benzoate | 34.4 g | ICCCOC1=CC=C(C(=O)OCC)C=C1 | C12H15IO3
